US04233445
7-[(4-Hydroxyphenyl)methyl]-7H-pyrrolo[3,2-f]quinazoline-1,3-diamine
Treat a suspension of 3.2 g. of 7-[(4-methoxyphenyl)-methyl]-7H-pyrrolo[3,2-f]quinazoline-1,3-diamine in 100 ml of methylene chloride at -5° C. with 34 ml. of 0.92 M boron tribromide in methylene chloride. Keep the reaction at 20° C. for 18 hours and dilute with 100 ml. of water. Filter the resulting precipitate, stir in an aqueous potassium carbonate solution, filter, wash with water and dry. Crystallize the precipitate twice from methanol and once from dimethylformamide to obtain 0.63 g. of the title product, m.p. 292° C. (dec.), NMR (dDMSO): δ 5.33 (singlet, N--CH2 --C6H5O), 6.67 (doublet, J=9 Hz, 5H), 6.72 (doublet, J=3 Hz, 9H), 7.51 (doublet, J=3 Hz, 8H), 7.75 (doublet, J=9 Hz, 6H) p.p.m.

reactant | 7-[(4-methoxyphenyl)-methyl]-7H-pyrrolo[3,2-f]quinazoline-1,3-diamine | COC1=CC=C(C=C1)CN1C=CC=2C3=C(N=C(N=C3C=CC21)N)N | C18H17N5O
reactant | boron tribromide | 0.92 M | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 7-[(4-Hydroxyphenyl)methyl]-7H-pyrrolo[3,2-f]quinazoline-1,3-diamine | OC1=CC=C(C=C1)CN1C=CC=2C3=C(N=C(N=C3C=CC21)N)N | C17H15N5O
